US07964643B2
Biphenyl-4-sulfonic acid-(4-hydroxybutyl)-methyl-amide (ABD-156)
The title compound was prepared from biphenyl-4-sulfonic acid-(4-hydroxybutyl)-amide (0.4 g), methyl iodide (0.2 mL) and K2CO2 (0.5 g) in dimethylformamide (20 mL). The mixture was stirred at room temperature for 4 hours, poured into water and extracted with diethyl ether. The organic phase was repeatedly washed with water and evaporated to give the title compound as a white solid (80%). δC (DMSO, 62.9 MHz): 23.7, 29.5, 34.5, 49.6, 60.2, 127.1, 127.2, 127.6, 128.6, 129.2, 135.8, 138.4 and 144.3. δH (DMSO, 250 MHz): 1.45 (4H, m), 2.68 (3H, s), 2.97 (2H, t, J 7.0), 3.40 (2H, m), 7.49 (3H, m), 7.75 (2H, d, J 7.0), 7.83 (2H, d, J 8.5) and 7.91 (2H, d, J 8.2).

reactant | biphenyl-4-sulfonic acid-(4-hydroxybutyl)-amide | 0.4 g | OCCCCNS(=O)(=O)C1=CC=C(C=C1)C1=CC=CC=C1 | C16H19NO3S
reactant | methyl iodide | 0.2 mL | CI | CH3I
reactant | water | O | H2O
solvent | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | Biphenyl-4-sulfonic acid-(4-hydroxybutyl)-methyl-amide | 80% | OCCCCN(S(=O)(=O)C1=CC=C(C=C1)C1=CC=CC=C1)C | C17H21NO3S
